US08389524B2
(a) Phenylmethyl (1S)-1-{[(methylsulfonyl)oxy]methyl}-3,8-dioxo-1,2,3,4-tetrahydro-5H,8H-2a,5,8a-triazaacenaphthylene-5-carboxylate
Phenylmethyl (1S)-1-(hydroxymethyl)-3,8-dioxo-1,2,3,4-tetrahydro-5H,8H-2a,5,8a-triazaacenaphthylene-5-carboxylate (242 mg, 0.681 mmol) (for a preparation see Example 13(g)) was dissolved in DCM (10 ml) at room temperature under argon and then treated with triethylamine (0.114 ml, 0.817 mmol). The mixture was then cooled using an ice-water bath. Methanesulfonyl chloride (0.058 ml, 0.749 mmol) was then added and the reaction was allowed to warm up to room temperature. After 1 h the mixture was washed with sat NaHCO3 (10 ml). The aqueous layer was extracted with DCM (2×50 ml) and the combined organic extracts dried on MgSO4, filtered and evaporated to afford the product as a yellow foam (232 mg, 95% purity by LCMS, 74.7%).

reactant | Phenylmethyl (1S)-1-(hydroxymethyl)-3,8-dioxo-1,2,3,4-tetrahydro-5H,8H-2a,5,8a-triazaacenaphthylene-5-carboxylate | 0.681 mmol, 242 mg | OC[C@@H]1CN2C(CN(C=3C=CC(N1C23)=O)C(=O)OCC2=CC=CC=C2)=O | C18H17N3O5
reactant | triethylamine | 0.817 mmol, 0.114 ml | C(C)N(CC)CC | C6H15N
reactant | Methanesulfonyl chloride | 0.749 mmol, 0.058 ml | CS(=O)(=O)Cl | CH3ClO2S
solvent | DCM | 10 ml | C(Cl)Cl | CH2Cl2
product | Phenylmethyl (1S)-1-{[(methylsulfonyl)oxy]methyl}-3,8-dioxo-1,2,3,4-tetrahydro-5H,8H-2a,5,8a-triazaacenaphthylene-5-carboxylate | 232 mg | CS(=O)(=O)OC[C@@H]1CN2C(CN(C=3C=CC(N1C23)=O)C(=O)OCC2=CC=CC=C2)=O | C19H19N3O7S
